US05952362
2-(3-Methanesulfonylaminophenoxy)-acetimidic acid ethyl ester hydrochloride (0.8 g) was suspended in 12 ml of absolute methanol (MeOH) and treated with 0.16 g of ethylene diamine. After 8 hours at room temperature the solvent was evaporated. The residue was purified by silica gel chromatography eluting with methanol:dichloromethane:ammonium hydroxide (16:84:0.1). Conversion to the hydrochloride salt by addition of 1.0M hydrogen chloride in ether gave 0.16 g of N-[3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)phenyl]methanesulfonamide hydrochloride, mp 183-187° C.

reactant | 2-(3-Methanesulfonylaminophenoxy)-acetimidic acid ethyl ester hydrochloride | 0.8 g | Cl.C(C)OC(COC1=CC(=CC=C1)NS(=O)(=O)C)=N
reactant | ethylene diamine | 0.16 g | C(CN)N | C2H8N2
solvent | methanol | 12 ml | CO | CH4O
product | N-[3-(4,5-dihydro-1H-imidazol-2-ylmethoxy)phenyl]methanesulfonamide hydrochloride | 0.16 g | Cl.N1C(=NCC1)COC=1C=C(C=CC1)NS(=O)(=O)C | InChI=1S/C11H15N3O3S.ClH/c1-18(15,16)14-9-3-2-4-10(7-9)17-8-11-12-5-6-13-11;/h2-4,7,14H,5-6,8H2,1H3,(H,12,13);1H
